US09315521B2
To a solution of {3-chloroimidazo[1,2-a]pyridin-2-yl}methanol (0.799 g, 4.39 mmol) in anhydrous chloroform (25 mL) at 0° C. was added tribromophosphane (1.20 g, 0.41 mL, 4.43 mmol), and the reaction mixture was allowed to stir at room temperature overnight. The solvent was evaporated to provide the crude 2-(bromomethyl)-3-chloroimidazo[1,2-a]pyridine, which was used for the next step without any further purification; M+1 246.2.

reactant | {3-chloroimidazo[1,2-a]pyridin-2-yl}methanol | 4.39 mmol, 0.799 g | ClC1=C(N=C2N1C=CC=C2)CO | C8H7ClN2O
reactant | tribromophosphane | 4.43 mmol, 0.41 mL, 1.20 g | BrP(Br)Br | Br3P
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(bromomethyl)-3-chloroimidazo[1,2-a]pyridine | BrCC=1N=C2N(C=CC=C2)C1Cl | C8H6BrClN2
